US06818787B2
To a stirred solution of 14 mL (0.2 mol) of pyruvic acid and 80 mL of triethylorthoformate at 10° C. was added 1 mL of concentrated sulfuric acid. The resulting mixture was stirred at 5-10° C. for 1 h and then diluted with 200 mL of dichloromethane. The organic solution was washed successively with water (3×80 mL) and saturated sodium chloride solution (80 mL) and then dried over anhydrous sodium sulfate. The mixture was filtered and then concentrated to give a quantitative yield of 2,2-diethoxypropionic acid as an oil. 1H NMR (CDCl3, 400 MHz): δ 1.30 (t, 6H), 1.61 (s, 3H), 3.57 (q, 4H), 8.62 (s, 1H). The acid form was quantitatively converted to its cesium salt by dissolving the acid in water (25 mL) followed by treatment with an equimolar quantity of cesium carbonate, and then lyophilization. 1H NMR (D2O, 400 MHz): δ 0.98 (t, 6H), 1.28 (s, 3H), 3.22 (q, 2H), 3.47 (q, 2H).

reactant | pyruvic acid | 0.2 mol, 14 mL | C(C(=O)C)(=O)O | C3H4O3
reactant | triethylorthoformate | 80 mL | C(C)OC(OCC)OCC | C7H16O3
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 2,2-diethoxypropionic acid | quantitative yield | C(C)OC(C(=O)O)(C)OCC | C7H14O4
